US04663319
Sodium hydride (a 60% of dispersion in oil) (189 mg) is suspended in 1,2-dimethoxyethane (20 ml), and the mixture is cooled with ice-water. A solution of ethyl (N-benzylcarbamoyl)acetate (1.002 g) in 1,2-dimethoxyethane (23 ml) is added dropwise to the mixture. The mixture is stirred for 30 minutes. Then, 2-methylthio-1,3-dithiolium iodide (1.309 g) is added to the mixture, and the mixture is stirred at room temperature for 2 hours and then at 40° C. to 50° C. for one hour. After cooling, the mixture is poured into ice-water, and the aqueous solution is extracted with ethyl acetate. The extract is washed with water, dried and then evaporated to remove the solvent. The residue thus obtained is treated in the same manner as described in Example 22-(2), whereby ethyl 2-(1,3-dithiol-2-ylidene)-2-(N-benzylcarbamoyl)acetate (595 mg) is obtained.

reactant | Sodium hydride | [H-].[Na+]
reactant | ethyl (N-benzylcarbamoyl)acetate | 1.002 g | C(C1=CC=CC=C1)NC(=O)CC(=O)OCC | C12H15NO3
reactant | 2-methylthio-1,3-dithiolium iodide | 1.309 g | [I-].CSC1=[S+]C=CS1
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 23 ml | COCCOC | C4H10O2
product | ethyl 2-(1,3-dithiol-2-ylidene)-2-(N-benzylcarbamoyl)acetate | 595 mg | S1C(SC=C1)=C(C(=O)OCC)C(NCC1=CC=CC=C1)=O | C15H15NO3S2
